US08383636B2
A solution of 2-amino-2-(hydroxymethyl)propane-1,3-diol (15.7 g, 130 mmol) and di-tert-butyl dicarbonate (31.1 g, 143 mmol) in methanol (400 mL) and water (40 mL) was stirred at ambient temperature for 72 h. The contents of the flask were evaporated and the resulting white solid dissolved in minimal hot ethyl acetate and allowed to recrystallise overnight. The crystals were filtered and washed with petroleum ether to give N-(1,3-dihydroxy-2-(hydroxymethyl)propan-2-yl)pivalamide (26.5 g, 130 mmol, 100%) as fluffy, white needles. To a solution of N-(1,3-dihydroxy-2-(hydroxymethyl)propan-2-yl)pivalamide (9.50 g, 42.0 mmol) and 2,2-dimethoxypropane (16.0 mL, 129 mmol) in DMF (100 mL) was added pyridinium para-toluenesulfonate (0.540 g, 2.15 mmol) at RT. The reaction was stirred at ambient temperature for 15 h. after which time the reaction was complete by TLC (petroleum ether:ethyl acetate, 4:1, visualised with Erlichs). The reaction mixture was diluted with diethyl ether, washed three times with aqueous sodium bicarbonate, once with brine, dried over magnesium sulphate, filtered and evaporated. The resulting semi-solid was recrystallised from minimal hot petroleum ether to give N-(5-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-5-yl)pivalamide (7.32 g, 65%) as white crystals. 1H NMR (CDCl3) δ 5.31 (br s, 1H, NH), 4.18 (br s, 1H, OH), 3.85 (d, J=11.5 Hz, 2H), 3.80 (d, J=11.5 Hz, 2H), 3.70 (d, 6.6 Hz, 2H), 1.46 (s, 12H), 1.44 (s, 3H). 13C NMR (CDCl3) δ 154.0, 98.8, 80.5, 64.8, 64.5 (2C), 53.4, 28.3 (3C), 26.9, 20.3.

reactant | 2-amino-2-(hydroxymethyl)propane-1,3-diol | 130 mmol, 15.7 g | NC(CO)(CO)CO | C4H11NO3
reactant | di-tert-butyl dicarbonate | 143 mmol, 31.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanol | 400 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | N-(1,3-dihydroxy-2-(hydroxymethyl)propan-2-yl)pivalamide | 130 mmol, 26.5 g, 100% | OCC(CO)(CO)NC(C(C)(C)C)=O | C9H19NO4
